US06600045B2
Step 1: Methanesulfonic Acid 2-tert-butoxycarbonylamino-butyl Ester.
Run #2: BOC anhydride (514.5 g) in ethyl acetate (400 mL) was added to a solution of R-(−)-2-amino-1-butanol (200.12 g) in ethyl acetate (1101 mL) via an addition funnel. The reaction mixture was stirred for approximately 30 minutes. Tetramethylethylenediamine (TMEDA) (359.1 mL) was added and the reaction mixture was cooled to approximately 10° C. Methanesulfonyl chloride (184.1 mL) was added to the reaction mixture over a 30-minute period. After stirring for 1 hour, the reaction mixture was combined with the filtrate from Run #1 and filtered. The solids where washed with 400 mL ethyl acetate. Hexanes (12 L) were added to the filtrate. The mixture was cooled in an ice/water bath. After about 2.5 hours the solids were isolated by filtration, washed with hexanes (2 L) and dried under vacuum to afford the title compound (971.57 g).

reactant | BOC anhydride | 514.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | R-(−)-2-amino-1-butanol | 200.12 g | CCC(CO)N | C4H11NO
reactant | Tetramethylethylenediamine | 359.1 mL | CN(CCN(C)C)C | C6H16N2
reactant | Methanesulfonyl chloride | 184.1 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1101 mL | C(C)(=O)OCC | C4H8O2
product | Methanesulfonic Acid 2-tert-butoxycarbonylamino-butyl Ester | 971.57 g | C(C)(C)(C)OC(=O)NC(COS(=O)(=O)C)CC | C10H21NO5S
